US07799805B2
[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-cyclopropyl-carbamic acid tert-butyl ester
A mixture of 3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzaldehyde (1.73 g, 6.06 mmol) and cyclopropylamine (0.64 mL, 9.1 mmol) in MeOH (60 mL) was heated to reflux for 4 h. The mixture was allowed to cool to rt, and NaBH4 (344 mg, 9.09 mmol) was added in portions. The mixture was stirred for 1 h, and water (20 mL) was added. The solvents were partially removed under reduced pressure. The resulting aq. suspension was diluted with water (50 mL), and extracted with EtOAc. The org. extracts were washed with aq. sat. NaHCO3, and brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure to yield the crude [3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-cyclopropyl-amine (1.54 g). This crude material was dissolved in CH2Cl2 (60 mL). DIPEA (3.1 mL, 18 mmol) was added, followed by Boc2O (1.98 g, 9.09 mmol). The mixture was stirred at rt for 2 h. CH2Cl2 (40 mL) was added, and the mixture was washed with aq. 1M HCl, aq. sat. NaHCO3 and brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (heptane→EtOAc/heptane 5:95) yielded the title compound (1.54 g, 78%). LC-MS: tR=1.26 min; ES+: 426.14.

reactant | 3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-benzaldehyde | 6.06 mmol, 1.73 g | C(C)(C)(C)[SiH2]OC(C=1C=C(C=O)C=CC1Cl)(C)C | C14H21ClO2Si
reactant | cyclopropylamine | 9.1 mmol, 0.64 mL | C1(CC1)N | C3H7N
reactant | NaBH4 | 9.09 mmol, 344 mg | [BH4-].[Na+]
reactant | DIPEA | 18 mmol, 3.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc2O | 9.09 mmol, 1.98 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 60 mL | CO | CH4O
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | [3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-cyclopropyl-carbamic acid tert-butyl ester | 1.54 g, 78% | C(C)(C)(C)OC(N(C1CC1)CC1=CC(=C(C=C1)Cl)C(O[SiH2]C(C)(C)C)(C)C)=O | C22H36ClNO3Si
